US04096267
Parenteral Solution of Sodium (1-oxo-2-methyl-2-phenyl-6,7-dichloro-5-indanyloxy)acetate
(1-Oxo-2-methyl-2-phenyl-6,7-dichloro-5-indanyloxy)acetic acid (1 gm.) is treated with sodium bicarbonate (0.25 gm.) in water (10 ml.) and the mixture stirred and heated to effect solution. The solution is diluted with water to a volume of 50 ml. and sterilized by autoclaving at 120° C. for one hour.

reactant | (1-Oxo-2-methyl-2-phenyl-6,7-dichloro-5-indanyloxy)acetic acid | 1 gm | O=C1C(CC2=CC(=C(C(=C12)Cl)Cl)OCC(=O)O)(C1=CC=CC=C1)C | C18H14Cl2O4
reactant | sodium bicarbonate | 0.25 gm | C([O-])(O)=O.[Na+]
solvent | water | 10 ml | O | H2O
product | Sodium (1-oxo-2-methyl-2-phenyl-6,7-dichloro-5-indanyloxy)acetate | O=C1C(CC2=CC(=C(C(=C12)Cl)Cl)OCC(=O)[O-])(C1=CC=CC=C1)C.[Na+] | InChI=1S/C18H14Cl2O4.Na/c1-18(11-5-3-2-4-6-11)8-10-7-12(24-9-13(21)22)15(19)16(20)14(10)17(18)23;/h2-7H,8-9H2,1H3,(H,21,22);/q;+1/p-1
